US09446130B2
To a solution of methyl 4-(3-(cyanomethyl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoate (12 g, 26.2 mmol) in HCl/MeOH (150 mL) was stirred at RT for 2 hrs. After the reaction was completed, the mixture was neutralized with aq NaHCO3 and extracted with EA and water. The organic layer was dried and concentrated. The residue was purified by column chromatography on silica gel eluted with PE:EA:DCM=2:1:1 to give methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-methoxy-2-oxoethyl)imidazo[1,5-a]pyrazin-1-yl)benzoate (11 g, yield 86%).

reactant | methyl 4-(3-(cyanomethyl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoate | 26.2 mmol, 12 g | C(#N)CC1=NC(=C2N1C=CN=C2NCC2=C(C=C(C=C2)OC)OC)C2=CC=C(C(=O)OC)C=C2 | C25H23N5O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EA | CC(OCC)=O | C4H8O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | HCl MeOH | 150 mL | Cl.CO
product | methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-methoxy-2-oxoethyl)imidazo[1,5-a]pyrazin-1-yl)benzoate | 11 g, yield 86% | COC1=C(CNC=2C=3N(C=CN2)C(=NC3C3=CC=C(C(=O)OC)C=C3)CC(=O)OC)C=CC(=C1)OC | C26H26N4O6
